US06251921B1
Preparation of 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl 2-[4-[3-(1-Pyrrolidinyl)propoxy]phenyl]benzo[b]thiophen-3-yl Ketone Dioxalate
By essentially following the procedure detailed in Example 1, Part C, the title compound was prepared from 2-(4-methoxyphenyl)benzo[b]thiophene (Example 3, Part A) and 4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride in 59% yield as an oil following radial chromatography (SiO2; gradient of 2-5% MeOH in CH2Cl2).

reactant | 2-(4-methoxyphenyl)benzo[b]thiophene | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12OS
reactant | 4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl 2-[4-[3-(1-Pyrrolidinyl)propoxy]phenyl]benzo[b]thiophen-3-yl Ketone Dioxalate | 59% yield | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1(CCCC1)CCCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OCCN2CCCC2 | InChI=1S/C34H38N2O3S.2C2H2O4/c37-33(26-10-14-29(15-11-26)39-25-23-36-20-5-6-21-36)32-30-8-1-2-9-31(30)40-34(32)27-12-16-28(17-13-27)38-24-7-22-35-18-3-4-19-35;2*3-1(4)2(5)6/h1-2,8-17H,3-7,18-25H2;2*(H,3,4)(H,5,6)
